US08497368B2
(E)-1-Ethyl-2-(1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)hydrazinecarboxamide
The title compound was prepared in 57% yield as a white solid in analogy to the synthesis of example 52 from 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone and 1-ethylhydrazine-carboxamide. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.61 (s, 1H), 8.89 (d, 1H), 8.36 (d, 1H), 8.03 (s, 1H), 8.00 (d, 1H), 7.83 (d, 1H), 7.53 (m, 1H), 6.61 (d, 2H), 6.22 (s, 2H), 3.80 (q, 2H), 2.42 (s, 3H), 1.07 (t, 3H). LCMS (method B): [MH]+=390, tR=1.98 min.

reactant | 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(C)=O | C16H12N6O
reactant | 1-ethylhydrazine-carboxamide | C(C)N(N)C(=O)N | C3H9N3O
product | (E)-1-Ethyl-2-(1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylidene)hydrazinecarboxamide | 57% yield | C(C)N(/N=C(\C)/C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2)C(=O)N | C19H19N9O
